US07265225B2
A. Preparation of 4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-7-[2-(tetrahydropyran-2-yloxy)ethoxy]quinoline
Heat 4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-ol (376 mg, 1.146 mmol), cesium carbonate (826 mg, 2.54 mmol), and 2-(2-bromoethoxy)tetrahydro-2H-pyran (380 μL, 2.52 mmol) in DMF (5 mL) at 120° C. for 4 hours. Quench the reaction with saturated sodium chloride and then extract with chloroform. Dry the organic layer over sodium sulfate and concentrate in vacuo. Purify the reaction mixture on a silica gel column eluting with dichloromethane to 10% methanol in dichloromethane to give the desired subtitled intermediate as a yellow oil (424 mg, 81%). MS ES+ m/e 457.0 (M+1).

reactant | 4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-ol | 1.146 mmol, 376 mg | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)O | C20H16N4O
reactant | cesium carbonate | 2.54 mmol, 826 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | 2.52 mmol, 380 μL | BrCCOC1OCCCC1 | C7H13BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-7-[2-(tetrahydropyran-2-yloxy)ethoxy]quinoline | 424 mg, 81% | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)OCCOC2OCCCC2 | C27H28N4O3
